US04490366
500 mg of 2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine and 0.76 ml of triethylamine were dissolved in 10 ml of dry dioxane, and the resulting mixture was cooled with ice. To the mixture was added 850 mg of benzoyl bromide, and the resulting mixture was allowed to stand at room temeprature for 15 minutes and then at 70° C. for 30 minutes. The same procedure as in Example 8 gave 400 mg (yield: 60.5%) of 3-benzoyl-2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine. The absorption spectra of the present product were identical with those of the compound obtained in Example 8.

reactant | 2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine | 500 mg | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C(=C1)F | C13H15FN2O7
reactant | triethylamine | 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl bromide | 850 mg | C(C1=CC=CC=C1)(=O)Br | C7H5BrO
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-benzoyl-2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine | 400 mg, yield: 60.5% | C(C1=CC=CC=C1)(=O)N1C(N([C@H]2C[C@H](OC(C)=O)[C@@H](COC(C)=O)O2)C=C(C1=O)F)=O | C20H19FN2O8
